### PR TITLE
suggestions for finsums.lean

### PR DESCRIPTION
**Pull request by kim-em**
I'm only making this as a PR as it's the easiest way to show code suggestions with comments. No need to merge. :-)

### CODE REVIEW

File: SymmetricProject/finsums.lean [hunk 1]
```diff
@@ -1,21 +1,16 @@
...
 example (n : ℕ) : ∑ t in range n, 2*t + n = n * n := by
   induction' n with n hn
-  simp
-  simp [Finset.sum_range_succ, hn]
-  rw [Nat.succ_eq_add_one]
-  have h : (∑ t in range n, 2 * t) + 2 * n + (n + 1) = (∑ t in range n, 2 * t) + n + n + (n + 1) := by ring 
-  rw [h, hn]
-  ring
-  
+  · simp
```
Comment (kim-em) [inline SymmetricProject/finsums.lean:12]: The `· ` "focuses" on a goal, so only one of the two goals is visible to Lean. At the end of the `· ` block the goal must be discharged.

These are basic "structuring" tactics that make the proof scripts relatively more readable.

File: SymmetricProject/finsums.lean [hunk 2]
```diff
@@ -1,21 +1,16 @@
...
+  · simp [Finset.sum_range_succ]
+    linarith
```
Comment (kim-em) [inline SymmetricProject/finsums.lean:14]: Since the argument is not actually using much about multiplication here, I guessed that `linarith` would be able to cope here. Even better, because `linarith` can use local hypotheses, there is no need to separately state `h` or rewrite by `hn`.
